US05067967
Preparation of 1-amino-5-fluoro-4-(2-hydroxyethylamino)-2-nitrobenzene
Ethylene oxide is passed in portions into a mixture of 34 g (0.2 mol) of 1,4-diamino-5-fluoro-2-nitrobenzene, 200 ml of water and 17 g of monoethylene glycol dimethyl ether at 60° C. in the course of 90 minutes and the reaction is monitored by thin layer chromatography. When the monohydroxyethylation is complete, the mixture is cooled slowly to room temperature and the solid precipitate is filtered off and washed twice with 25 ml of a water/ethanol mixture (1/1) each time.

reactant | Ethylene oxide | C1CO1 | C2H4O
reactant | 1,4-diamino-5-fluoro-2-nitrobenzene | 0.2 mol, 34 g | NC1=C(C=C(C(=C1)F)N)[N+](=O)[O-] | C6H6FN3O2
reactant | water | 200 ml | O | H2O
solvent | monoethylene glycol dimethyl ether | 17 g | COCCOC | C4H10O2
product | 1-amino-5-fluoro-4-(2-hydroxyethylamino)-2-nitrobenzene | NC1=C(C=C(C(=C1)F)NCCO)[N+](=O)[O-] | C8H10FN3O3
